US05521147
Stirred concentrated sulfuric acid, 50 mL, was cooled in an ice-water bath, and 9.0 grams (0.037 mole) of 5-chloro-2-ethoxycarbonyl-2,3-dihydro-2-methylbenzofuran was added. To this solution was added dropwise a solution of 2.6 grams (0.041 mole) of 90% nitric acid in 2 mL of concentrated sulfuric acid, while maintaining the reaction mixture temperature at 10°-16° C. Upon completion of the addition, the reaction mixture was stirred at the ice-water bath temperature for 30 minutes, then allowed to warm to ambient temperature where it stirred for one hour. The reaction mixture was poured into ice and neutralized with sodium bicarbonate and extracted with three portions of methylene chloride. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residual oil. The oil was subjected to column chromatography on silica gel, with 3:7 ethyl acetate:heptane as the eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding 4.0 grams of 5-chloro-2-ethoxycarbonyl-2,3-dihydro-2-methyl- 7-nitrobenzofuran, mp 69°-72.5° C. The NMR spectrum was consistent with the proposed structure. This reaction was repeated.

reactant | 5-chloro-2-ethoxycarbonyl-2,3-dihydro-2-methylbenzofuran | 0.037 mole, 9.0 grams | ClC=1C=CC2=C(CC(O2)(C)C(=O)OCC)C1 | C12H13ClO3
reactant | nitric acid | 0.041 mole, 2.6 grams | [N+](=O)(O)[O-] | HNO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
product | 5-chloro-2-ethoxycarbonyl-2,3-dihydro-2-methyl- 7-nitrobenzofuran | 4.0 grams | ClC=1C=C(C2=C(CC(O2)(C)C(=O)OCC)C1)[N+](=O)[O-] | C12H12ClNO5
